US06518423B1
[1-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)-1-azoniabicyclo[2.2.2]octane-4-carboxylate
0.620 g of 1-azabicyclo[2.2.2]octane-4-carboxylic acid was dissolved in 40 ml of acetonitrile. After adding 3.98 g of N-methyl-N-(trimethylsilyl)trifluoroacetamide, the resulting mixture was stirred for 2 hours. Next, 0.998 g of 8-chloromethyl-10H-pyrazino[2,3-b][1,4]benzothiazine was added thereto and the resulting mixture was heated under reflux for 4 hours. After distilling off the solvent under reduced pressure, the residue was dissolved in methanol/dichloromethane. After adding diethyl ether, the mixture was filtered and the residue was purified by High-porous gel chromatography (CHP20P, mfd by Mitsubishi Chemical Industries, 75-150μ) (eluted with methanol/water) to thereby give 0.21 g of the title compound as a yellow powder.

reactant | 1-azabicyclo[2.2.2]octane-4-carboxylic acid | 0.620 g | N12CCC(CC1)(CC2)C(=O)O | C8H13NO2
reactant | N-methyl-N-(trimethylsilyl)trifluoroacetamide | 3.98 g | CN(C(C(F)(F)F)=O)[Si](C)(C)C | C6H12F3NOSi
reactant | 8-chloromethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 0.998 g | ClCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C11H8ClN3S
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 1-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)-1-azoniabicyclo[2.2.2]octane-4-carboxylate | 0.21 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)C[N+]32CCC(CC3)(CC2)C(=O)[O-] | C19H20N4O2S
